US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-carbonitrile
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine and (2-cyanophenyl)boronic acid. MS (ESI): mass calcd. for C17H11FN4, 290.10; m/z found, 291.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.42 (s, 1H), 8.05-7.98 (m, 3H), 7.83 (m, 1H), 7.71 (d, J=7.6, 1H), 7.66-7.47 (m, 3H), 6.77 (s, 2H).

reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
reactant | (2-cyanophenyl)boronic acid | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-carbonitrile | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F | C17H11FN4
